US05245066
This method involves reacting dimethyldichlorosilane with ammonia in benzene at 30° C., removing ammonia chloride by-product by filtration through a glass filter or the like, and distilling the reaction product to isolate hexamethylcyclotrisilazane.

reactant | dimethyldichlorosilane | C[Si](Cl)(Cl)C | C2H6Cl2Si
reactant | ammonia | N | H3N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | hexamethylcyclotrisilazane | C[Si]1(N[Si](N[Si](N1)(C)C)(C)C)C | C6H21N3Si3
